US09376441B2
To the TFA salt of (R)-4-((R)-1-((1-cyclopropyl-5-(5-(piperazin-1-yl)pyridin-2-yl)-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one: (45 mg, 0.1 mmol) in DCM (1 mL) and TEA (0.07 mL, 0.5 mmol) was added acetic anhydride (0.014 mL, 0.15 mmol). The reaction was stirred at rt for 2 h. The mixture was then concentrated and purified by prep-HPLC (MeCN:water gradient; TFA modified) to give (R)-4-((R)-1-((5-(5-(4-acetylpiperazin-1-yl)pyridin-2-yl)-1-cyclopropyl-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one: 3.59 as a TFA salt. The salt was then converted to the free base by treatment with MP carbonate resin.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (R)-4-((R)-1-((1-cyclopropyl-5-(5-(piperazin-1-yl)pyridin-2-yl)-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one | C1(CC1)N1C=NC2=C1C(=CC(=C2)C2=NC=C(C=C2)N2CCNCC2)O[C@H](C)[C@@H]2CC(NC2)=O | C25H30N6O2
reactant | acetic anhydride | 0.15 mmol, 0.014 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (R)-4-((R)-1-((5-(5-(4-acetylpiperazin-1-yl)pyridin-2-yl)-1-cyclopropyl-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one | C(C)(=O)N1CCN(CC1)C=1C=CC(=NC1)C1=CC2=C(N(C=N2)C2CC2)C(=C1)O[C@H](C)[C@@H]1CC(NC1)=O | C27H32N6O3
